US09216173B2
To a solution of 2-(1,3-thiazol-2-yl)propan-2-ol (40 g, 0.28 mol) in THF (400 mL) was add n-butyllithium (2.5 M in hexanes, 260 mL, 0.64 mol) dropwise at −78° C. After 30 minutes, 4,4,5,5-tetramethyl-2-(propan-2-yloxy)-1,3,2-dioxaborolane (65 g, 0.35 mol) was added at −78° C. The reaction solution was then stirred at −78° C. After 1 hour, the reaction mixture was quenched with acetic acid, filtered, and concentrated under reduced pressure. The residue was diluted with hydrochloric acid (3.0 M solution in diethyl ether, 110 mL, 0.33 mol) and the mixture was filtered to afford 2-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-thiazol-2-yl]propan-2-ol. MS ESI calc'd. for C12H21BNO3S [M+H]+ 270. found 270. 1H NMR (300 MHz, DMSO-d6): δ 8.01 (s, 1H), 1.49 (s, 6H), 1.28 (s, 12H).

reactant | 2-(1,3-thiazol-2-yl)propan-2-ol | 0.28 mol, 40 g | S1C(=NC=C1)C(C)(C)O | C6H9NOS
reactant | n-butyllithium | 0.64 mol, 2.5 M, 260 mL | C(CCC)[Li]
reactant | 4,4,5,5-tetramethyl-2-(propan-2-yloxy)-1,3,2-dioxaborolane | 0.35 mol, 65 g | CC1(OB(OC1(C)C)OC(C)C)C | C9H19BO3
reactant | hydrochloric acid | 0.33 mol, 3.0 M, 110 mL | Cl | ClH
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 2-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-thiazol-2-yl]propan-2-ol | CC1(OB(OC1(C)C)C1=CN=C(S1)C(C)(C)O)C | C12H20BNO3S
